US06852755B1
(i) 3,5-difluoro-4-[bis(2-hydroxyethyl)amino]benzonitrile
A solution of 3,4,5-trifluorobenzonitrile (5 g, 32 mmol) and diethanolamine (6 ml, 85 mmol) in N,N-dimethylacetamide was stirred for 10 days. The solvent was then evaporated, the residue partitioned between CH2Cl2 (200 ml) and H2O (200 ml), the organic layer dried (MgSO4) and evaporated to dryness. The residue was chromatographed using CH2Cl2-EtOAc as eluent to give, after recrystallization from toluene, 2.7 g (35%) of pure white crystals: mp 63-65° C.; 1H NMR δ3.33 (t, 4H, NCH2, J=6 Hz), 3.48 (t, 4H, OCH2, J=6 Hz), 4.43 (bs, 2H, OH), 7.57 (dd, 2H, H2+6, JH2, F3 and H6, F5=8.5 Hz, JH2, F5 and H6, F3=2Hz=22 Hz); 19F NMR δ −116.0 (d, 2F, F3+5, JF3, H2 and F5, 6=7.5 Hz); MS m/z 265 (M+Na+, 10), 243 (M+H+, 100), 211 (M-CH2OH, 85). Anal. (C11H12N2O2F2) C,H,N.

reactant | 3,4,5-trifluorobenzonitrile | 32 mmol, 5 g | FC=1C=C(C#N)C=C(C1F)F | C7H2F3N
reactant | diethanolamine | 85 mmol, 6 ml | N(CCO)CCO | C4H11NO2
solvent | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
product | 3,5-difluoro-4-[bis(2-hydroxyethyl)amino]benzonitrile | FC=1C=C(C#N)C=C(C1N(CCO)CCO)F | C11H12F2N2O2
